US04873236
5,11-Dihydro-11-[[[2-[4-[3-(piperidin-1-yl)propyl]-piperidin-1-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 1 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2-[4-[3-(piperidin-1-yl)propyl)-piperidin-1-yl]ethanamine in a yield of 16% of theory. Colourless crystals, m.p. 192°-193° C. (acetonitrile).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 2-[4-[3-(piperidin-1-yl)propyl)-piperidin-1-yl]ethanamine | N1(CCCCC1)CCCC1CCN(CC1)CCN | C15H31N3
solvent | acetonitrile | C(C)#N | C2H3N
product | 5,11-Dihydro-11-[[[2-[4-[3-(piperidin-1-yl)propyl]-piperidin-1-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 16% | N1(CCCCC1)CCCC1CCN(CC1)CCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C28H38N6O2
